US04558115
A. Preparation of p-Isopropenylphenyl Cyanate
A 134.17 gram portion of p-isopropenylphenol (1.00 mole), 111.23 grams of cyanogen bromide (1.05 mole) and 600 milliliters of acetone were added to a reactor and maintained under a nitrogen atmosphere with stirring. The p-isopropenylphenol used herein was of in excess of 99 percent purity. The stirred solution was cooled to -10° C. then 101.19 grams of triethylamine (1.00 mole) was added to the reactor over a twenty minute (1200 s) period and so as to maintain a reaction temperature of -5° to -2° C. After completion of the triethylamine addition, the reactor was maintained at -2° to 5° C. for an additional thirty minutes (1800 s), followed by addition of the reactor contents to 1 gallon of chilled deionized water. After five minutes (300 s) the water and product mixture was multiply extracted with three 400 milliliter volumes of methylene chloride. The combined methylene chloride extract was washed with 500 milliliters of 5 percent aqueous hydrochloric acid followed by washing with 800 milliliters of deionized water then drying over anhydrous sodium sulfate. The dry methylene chloride extract was filtered and solvent removed by rotary evaporation under vacuum. p-Isopropenylphenyl cyanate (132.5 grams) was recovered in 83.2 percent yield as a transparent light amber colored liquid. Infrared spectrophotometric analysis of a film sample of the product confirmed the product structure (disappearance of phenolic hydroxyl group, appearance of --C≡N group). Gas chromatographic-mass spectroscopic analysis of the product confirmed the structure for p-isopropenylphenyl cyanate (parent ion m/e=159) with essentially no other compounds being present.

reactant | p-isopropenylphenol | 1.00 mole | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
reactant | cyanogen bromide | 1.05 mole, 111.23 grams | N#CBr | CBrN
reactant | acetone | 600 milliliters | CC(=O)C | C3H6O
reactant | triethylamine | 1.00 mole, 101.19 grams | C(C)N(CC)CC | C6H15N
solvent | water | 1 gallon | O | H2O
product | p-Isopropenylphenyl Cyanate | 83.2 percent yield | C(=C)(C)C1=CC=C(C=C1)OC#N | C10H9NO
